* C:\Users\Administrator\OneDrive\Desktop\MITMANIPAL\MRM\LTspice\RC.asc
* Generated by LTspice 24.1.9 for Windows.
V1 N001 0 PULSE(0V 5V 0s 1us 1us 5ms 10ms)
R1 N001 Vout 1k
C1 Vout 0 1µ
.tran 20ms
.backanno
.end
