* C:\Users\Administrator\OneDrive\Desktop\MITMANIPAL\MRM\LTspice\RLC.asc
* Generated by LTspice 24.1.9 for Windows.
V1 N001 0 PULSE(0V 5V 0 1us 1us 10ms 20ms)
R1 N001 N002 50
L1 N002 Vout 100m
C1 Vout 0 1µ
.tran 20ms
.backanno
.end
